Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
"They think I have a mental illness."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ year old ___ man with no psychiatric
history who self presented to the ED on ___ for evaluation of
leg pain and an auditory issue; he was encouraged by family to 
be
evaluated in the ED due to their concerns not only about these
symptoms, but also about recent odd statements he has made. 

"Mr. ___ states about 2 months ago he fell off his
skateboard, landing on his right side. Since then he has had
intermittent right leg pain (from right hip to right knee). He
originally was not concerned about the pain, figuring it was
bruising related to the accident, but earlier today the pain was
the worst it has ever been. He also notes that for the last
month, he has been experiencing a ticking sound in his left ear.
He states he notices it when he is laying in bed at night when 
it
is quiet, and feels it is more pronounced when he is anxious and
having negative thoughts. He states it is occasionally 
associated
with left sided head pressure. He states it may be a
manifestation of his anxiety, but he is also concerned it could
be something else, like a bug in his ear. He states he does not
have a regular PCP, so figured his best option was to have these
things evaluated in the ED.

In regards to the reported suicidal thoughts, he states he has
been very stressed out since graduating from college in ___. He
states since graduating he has been applying to jobs and has had
several rejections. He compares himself to friends he graduated
with who are already working and feels bad about himself and
feels like a failure. He wants to be able to contribute more to
the family, as his family as whole struggle to make rent, and he
feels like he is failing them. In this setting, he described
worsening depressed mood as well as suicidal thoughts on two
occasions, thinking "maybe I should get it over with". When 
asked
how he would kill himself, he states he doesn't know how to swim
so maybe jumping in water. But he states he has never made any
suicide plans or had any intent, noting several reasons why he
would not kill himself (believes it is wrong, afraid of dying,
not a solution to problems). 

He describes difficulty falling asleep recently, stating he 
stays
up worrying about getting a job. He states he will instead go on
the internet or try to work on projects and will end up staying
awake until ___ and then sleep until ___. He states the 
past
two nights he has only got 2 hours of sleep each night. He 
states
he was particularly worried about an interview he had today. He
believes it went well, and feels more hopeful and motivated as a
result. 

Patient later requests this writer return to his room. He
requests that his phone and laptop be removed from the room for
the conversation, as he doesn't trust the devices. He states he
has been hiding information from this writer, but now wants to
share. States he believes a "MEM" chip has been implanted in his
head and is broadcasting his thoughts and memories to a
"receiver". He states the chip is causing the ticking sound in
his left ear. He states a very rich man who is a friend of his
sisters is likely responsible for this. He suspects his sister
has been drugging him and this is how the man was able to 
implant
the chip without his knowledge. He states he has suspected the
chip in his head for a month now, since he first heard the
ticking in his ear.

When asked why someone would do this, he states back in ___ his
sister was raped, and he was somewhat responsible for it; so his
family wants access to his thoughts and memories because of this
event. He states there are "receivers" within ___ yards of him
all over ___ and the ___ and if he is to escape them, he
will need to move out of the country but avoid the ___. He states
he needs a CT scan to prove the chip is in his head. He states 
if
he doesn't get the CT, he will cut open his head on his own. He
states he will have no choice but to do this. States he will not
attempt to do it while in the hospital. He then asks this writer
not to share any of this information with anyone outside the
psych service. 

He also asks this writer to not allow blood draws, and expresses
concern about drug infusions via patch. "

Upon arrival, uncooperative with admission process, becoming
increasingly agitated, requesting lawyer immediately, pacing,
walking into other patients' rooms, could not be redirected.
Offered PO medications, but threw medications and water. When
given options of either taking PO meds or injection, he chose
injection (Haldol 5mg, benadryl 50mg). 

After less than an hour, he was calm and cooperative with
interview. He states he feels more relaxed. Still does not agree
with psychiatric admission and doesn't want to be here, but says
he understands he can't do anything about at this point. Says he
knows doctors think ___ a mental illness though he doesn't
agree with this. He states his mood is okay now, denies suicidal
thoughts. Denies homicidal thoughts. States he still believes
there is a chip in his head. Says it didn't appear on CT because
it is not metal, it is likely silicon. He states he is less
concerned about it right now. Denies hearing the ticking sound 
in
his left ear right now. Denies any other AH or VH. States he
doesn't trust his family because they are responsible for him
being put in the hospital. 
 
Past Medical History:
Past psychiatric history: 
-Prior diagnoses: denies
-Hospitalizations: denies
-Psychiatrist: denies ever seeing a psychiatrist
-Medication trials: denies
-Suicide attempts: denies
-Self-injurious behavior: states he has on a few occasions
punched himself when frustrated over a mistake he has made,
denies ever hurting himself or leaving a mark
-Access to weapons: denies

Past medical history: 
-PCP: states he has not seen any doctor for over ___ years, unsure
of his PCP or if he has one
-Denies any medical problems.
 
Social History:
Substance use history: 
-Tobacco: smokes ___ cigarettes a day
-Alcohol: Socially, once every 2 weeks
-Marijuana: Daily marijuana use for the past ___ years. States he
stopped using for about 3 weeks in ___, as he was concerned 
it
was causing him to be less productive/getting in the way of his
job search. Ultimately continued using at the end of ___,
feeling it was not impacting his goals.
-Other Drugs: Denies

Forensic history: 
-Arrests: Denies
-Convictions and jail terms: Denies
-Current status (pending charges, probation, parole): Denies

Personal and Social History: ___
Family History:
Family psychiatric history:
-Psychiatric Diagnoses: denies
-Substance Use Disorders: denies
-Suicide Attempts/Completed Suicides: denies
 
Physical Exam:
Pysical Exam on Admission:
VS: T:refused, BP:refused, HR:88, RR:18, O2Sat:99% on RA

General: ___ year old man in NAD. Well-nourished, well-developed.
Appears stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No apparent rashes, abrasions, scars, or lesions. 

Neurological:
 Cranial Nerves:
 I: Not tested.
 II: PERRL.
 III, IV, VI: EOMI intact ___ without nystagmus.
 V, VII: Facial strength and sensation intact and symmetric.
 VIII: Hearing intact to finger rub bilaterally.
 IX, X: Palatal elevation symmetrical.
 XI: trapezius normal bilaterally.
 XII: Tongue midline without fasciculations.
 Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Coordination:
Normal on finger to nose test. DTRs: patellar 2+ and 
symmetrical.
Sensation: Intact to light touch throughout. 
 Gait: not assessed.

Cognition: 
  Wakefulness/alertness: awake and alert
  Attention: serial 7s to 58 without errors
  Orientation: oriented to person, time, place, situation
  Executive function (go-no go, Luria, trails, FAS): not tested
  Memory: intact to recent and past history, remembered 3 words 
  from yesterday's exam
  Fund of knowledge: consistent with education
  Calculations: $2.25 = "9 quarters"
  Abstraction: "you cant judge a book by its cover" interpreted 
  as "you need to get to know what's on the inside, not judge 
  based on the outside"
  Visuospatial: not assessed
  Speech: normal rate, volume, and tone
  Language: fluent ___ speaker with accent, no paraphasic 
  errors, appropriate to conversation

Mental Status:
 Appearance: ___ year old man, appears his stated age, appears
disheveled unshaved and unkempt hair, wearing hospital gown, no
apparent distress.
 Behavior: Calm, cooperative, slightly guarded, appropriate eye
contact, no psychomotor agitation or retardation
 Mood and Affect: "okay" / slightly constricted, reactive at
times, appropriate to situation, congruent with mood
 Thought Process: linear, coherent, goal-oriented. No LOA.
 Thought Content: denies SI/HI/AH/VH, endorsing delusion of chip
in his head and mistrust of his family
 Judgment and Insight: poor/poor

Physical Exam at Discharge:
Vitals:
T97.7BP:111 / 77HR:92RR:18SpO2:99
 
Mental Status:
-Appearance: man appearing stated age, well groomed, wearing
sweat pants and sweat shirt, in no apparent distress
-Behavior: Sitting up in bed, appropriate eye contact, no
psychomotor agitation notable for bouncing of right leg.
Decreased from yesterday. 
-Attitude: Cooperative, engaged, friendly
-Mood: "I'm feeling better, I know those thoughts I had don't
make sense"
-Affect: Mood-congruent, full range, appropriate to situation.
laughs at appropriate times and discusses his concern for these
thoughts that were not logical
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Good, recognizes why he was admitted and offers up 
that
those thoughts were abnormal and irrational
-Judgment: Improving

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention:  Not formally assessed but attentive to interview
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not assessed
-Memory: Not formally assessed but intact to interview
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation
- Multiple proverbs were chared with the patient including: 
- Dont judge a book by its cover: "That you shouldnt judge
something by the outside, and that something different could be
underneath." "Also that you shouldnt judge a cover, because
inside you can read between the lines"
- People in glass houses shouldnt throw stones: "that you should
use your strength was fighting with someone and you should not
show your weaknessass like a stone can break the glass"
- Speaking is silver but silence is golden: "That speaking can 
be
good, but slience may be the best thing"
 
Pertinent Results:
___ 01:01AM BLOOD WBC-8.7 RBC-4.97 Hgb-14.3 Hct-42.4 MCV-85 
MCH-28.8 MCHC-33.7 RDW-12.1 RDWSD-37.1 Plt ___
___ 01:01AM BLOOD Neuts-66.0 ___ Monos-4.9* Eos-1.1 
Baso-0.7 Im ___ AbsNeut-5.75 AbsLymp-2.37 AbsMono-0.43 
AbsEos-0.10 AbsBaso-0.06
___ 01:01AM BLOOD Glucose-120* UreaN-16 Creat-1.0 Na-141 
K-3.8 Cl-102 HCO3-26 AnGap-13
___ 06:10AM BLOOD ALT-17 AST-24 AlkPhos-57 TotBili-0.8
___ 04:14AM BLOOD Calcium-9.1 Phos-5.3* Mg-2.4
___ 06:10AM BLOOD %HbA1c-5.1 eAG-100
___ 06:10AM BLOOD Triglyc-66 HDL-44 CHOL/HD-3.9 LDLcalc-115
___ 06:10AM BLOOD Cholest-172
___ 04:14AM BLOOD TSH-3.3
___ 01:01AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

CT Head w/o contrast ___:
INDICATION:  ___ man with suicidal ideation.  Evaluate 
for
intracranial abnormality.
 
TECHNIQUE:  Contiguous axial images of the brain were obtained 
without
contrast. Coronal and sagittal reformations as well as bone 
algorithm
reconstructions were provided and reviewed.
 
COMPARISON:  None.
 
FINDINGS: 
 
There is no evidence of large territorial infarction,acute 
intracranial
hemorrhage,edema,or mass.  There is slight prominence of the 
ventricles and
sulci, minimally greater than would be expected for the 
patient's age.
 
There is no evidence of calvarial fracture.  Mild mucosal 
thickening is
identified in the left frontal sinus and frontoethmoidal recess. 
 The
visualized portion of the remaining paranasal sinuses, mastoid 
air cells, and
middle ear cavities are clear.  The visualized portion of the 
orbits are
unremarkable.
 
IMPRESSION:
 
 
1. No acute intracranial abnormality on noncontrast head CT.  
Specifically no
intracranial hemorrhage or large territory infarct.  No 
intracranial mass
effect.
2. Additional findings described above
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, Mr. ___ refused to sign a conditional 
voluntary agreement and was admitted on a ___, which 
expired on ___ (the date of discharge). The patient was 
agitated when arrived on the floor and was initally placed on 5 
min checks and restricted sharps. His behavior improved by his 
second day of admission and he was switched to 15 min checks and 
monitored sharps
 
2. PSYCHIATRIC:
#) Mr. ___ was initially admitted with auditory 
hallucinations and paranoid thoughts in the setting of recent 
increased stressors (including financial, employment) and 
decreased sleep. He was significantly disorganized and paranoid 
on arrival to the unit, and there was concern for the safety of 
the patient and others. The  refused oral medications at this 
time, and accepted 5 mg IM haldol with 50 mg IM benadryl. The 
patient demonstrated improvement of his dysregulation and 
paranoia following this intervention and spent the night in the 
isolation room without incident. On the day of admission the 
patient was also started on Risepridone 0.5 mg twice a day, 
which improved his sleep and psychotic symptoms. His hospital 
course was complicated by dystonic reactions starting 
approximately 16 hours following his dose of IM Haldol. He found 
improvement with 50 mg IM benadryl, with standing 50 mg 
benadryl, nevertheless, he had 2 further recurrences of 
dystonia. As such, patient was started on cogentin 1 mg BID. 
Followin initiation of this medicaiton, patient did not 
experience any further dystonia. Patient continued to deny any 
paranoia or delusions, hallucinations, and did not demonstrate 
any further dysregulation, or bizzare behavior. At discharge the 
patient was able to  recognize that his thoughts as "false 
accusations" and stated that they did not make logical sense and 
were not likely to have been true. He was discharged in an 
improved state, with plan for outpatient follow up and to 
continue risperidone 0.5 mg BID and cogentin 1 mg BID.

3. SUBSTANCE USE DISORDERS:
#)Mr. ___ reported daily marijuana use of several puffs of 
marijuana socially daily while "playing games." Counselling was 
provided to the patient and the patient was encouraged to 
continue to abstain from drug use following discharge.

4. MEDICAL
Mr. ___ was medically cleared in the ED; no acute  medical 
issues prevented admission to Deac 4.  Additionally, Mr. 
___ has no chronic medical issues requiring attention.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Mr. ___  was encouraged to participate in the various 
groups and milieu therapy opportunities offered by the unit.  
The occupational therapy and social work groups that focus on 
teaching patients various coping skills. Mr. ___ often 
attended these groups. Mr. ___ was visible on the milieu 
and appropriately interacted with staff and peers.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Mr. ___ gave verbal permission for the team to contact his 
family (mother, father, sister and brother) who was also given 
an update on Mr. ___ progress while admitted and 
discharge plan. A family meeting was held on ___ and all 
pertinent questions pertaining to the discharge plan and Mr. 
___ care were answered with the permission of Mr. 
___.
Patient's mother, brother and sister were present during the 
family meeting. The family voiced that they were very happy with 
the changes that Mr. ___ has been demonstrating. They state 
that "he is back to his normal self." They reported that they 
are very much on board with the patient to have close follow up 
at ___ after discharge and then to continue with psychiatrist 
following this program. They did voiced concerns about the 
patient's tolerating of the medications, specifically that the 
patient stated he felt "hazy" and agreed that keeping the 
patient 
over the weekend (___) would be helpful. To monitor for 
side effects. 
The patient also echoed these sentiments. The family was 
provided with the names of the ___ and BEST resources. Of note, 
the family was sure that the patient has health care through 
___. They reported that he has ___ insurance. 
Reportedly, the patient should have his insurance card which is 
locked in the
valuables safe on the unit. They are hoping that they can touch 
base with social work to provide any information necessary to 
help. 

6. INFORMED CONSENT: 
Medication: Risperdal (risperidone)
---Benefits: Treatment of obsessive thoughts, compulsive 
behaviors, and anxiety
---Adverse effects: Risk of developing diabetes/dyslipidemia, 
EPS, TD (rare), hyperprolactinemia, QTc prolongation, 
drowsiness, nausea, constipation, weight gain, orthostatic 
hypotension (rare)

Medication: Cogentin (benztropine)
---Benefits: Reduce possibility of movement-related side effects 
of Haloperidol/Risperidone
---Adverse effects: Dry mouth, nausea, vomiting, urinary 
retention, confusion

Medication: Haldol (haloperidol) and Risperidone
---Benefits: Treatment of schizophrenia
---Adverse effects: Neuroleptic-induced deficit syndrome 
(apathy, emotional blunting, difficulty concentrating, 
desocialization), akathisia, tremor/parkinsonism, tardive 
dyskinesia, tardive dystonia, galactorrhea, amenorrhea, 
dizziness, sedation, dry mouth, constipation, urinary retention, 
blurred vision, decreased sweating, hypotension, tachycardia, 
syncope, QTc prolongation, weight gain (not unusual), 
neuroleptic malignant syndrome (rare), agranulocytosis (rare), 
jaundice (rare), seizures (rare).

Mr. ___ reported that he plans to continue taking the med and to 
work on the dosage with his outpatient psychiatrist.

Mr. ___ was informed of alternative treatments, the 
consequences of no treatment, and the expected duration of 
treatment. He appeared to appreciate the information conveyed in 
the consent process by asking appropriate questions, which were 
answered by the treatment team, and expressing understanding of 
the potential risks and benefits (see above).  Prior to starting 
treatment, the team also discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment.  Mr. ___ 
understood the above and consented to begin the medication.

7. RISK ASSESSMENT
On presentation, Mr. ___ was evaluated and felt to be at an 
increased risk of harm to himself and others.  Mr. ___ 
static risk factors noted at that time include male gender, 
substance use, single relationship status, financial hardships, 
unemployment.  The modifiable risk factors identified were as 
such: psychosis, disorganized and unpredicatble behavior, 
insomnia, lack of engagment with outpatient treatment, limited 
coping skills.  These modifiable risk factors were addressed 
with acute stabilization in a safe environment on a locked 
inpatient unit, psychopharmacologic adjustments, 
psychotherapeutic interventions (OT groups, SW groups, 
individual therapy meetings with psychiatrists), and presence on 
a social milieu environment.  Mr. ___ is being discharged 
with many protective factors, including sense of responsibility 
to family, future oriented, no prior suicide 
attempts/self-injurious behavior, reality-testing ability, good 
support system.  Overall, based on the totality of our 
assessment at this time, Mr. ___ is not at an acutely 
elevated risk of harm to self nor danger to others. 

Our prognosis of this patient is Good to Fair.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Benztropine Mesylate 1 mg PO BID 
RX *benztropine 1 mg 1 tablet(s) by mouth twice a day Disp #*28 
Tablet Refills:*0 
2.  Nicotine Patch 14 mg TD DAILY 
Use patch to help with smoking cravings. 
RX *nicotine 14 ___ 1 patch on skin Daily Disp #*14 
Patch Refills:*0 
3.  RisperiDONE 0.5 mg PO BID 
RX *risperidone 0.5 mg 1 tablet(s) by mouth twice a day Disp 
#*28 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified Psychotic Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___